US08349860B2
A solution of 5-methyl thiophene-2-carboxylic acid (1.42 g, 10.0 mmol), triethylamine (1.50 mL, 10.8 mmol) and diphenyl phosphoryl azide (2.15 mL, 10.0 mmol) in tBuOH (20 mL) was stirred at reflux for 5 h. tBuOH was removed in vacuo. Et2O and water were added. The organic phase was washed with 5% NaHCO3, then with 1N NaOH, and filtered. The filtrate was dried over Na2SO4, concentrated in vacuo to give tert-butyl 5-methylthiophen-2-ylcarbamate as a solid (0.825 g).

reactant | 5-methyl thiophene-2-carboxylic acid | 10.0 mmol, 1.42 g | CC1=CC=C(S1)C(=O)O | C6H6O2S
reactant | triethylamine | 10.8 mmol, 1.50 mL | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphoryl azide | 10.0 mmol, 2.15 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tBuOH | 20 mL | CC(C)(C)O | C4H10O
product | tert-butyl 5-methylthiophen-2-ylcarbamate | 0.825 g | CC1=CC=C(S1)NC(OC(C)(C)C)=O | C10H15NO2S
